US06930187B2
Synthesis of [1S-[1R*,3R*(E),7R*,10S*,11R*,12R*,16S*]]-3-[2-[2-(Aminomethyl)-4-thiazolyl]-1-methylethenyl]-7,11-dihydroxy-8,8,10,12,16-pentamethyl-4,17-dioxabicyclo[14.1.0]heptadecane-5,9-dione
To a suspension of epothilone F (5.0 g, 9.55 mmol, 86.2% potency) and diphenylphosphoryl azide (2.27 ml, 10.5 mmol, 1.1 eq) in tetrahydrofuran (40 ml) was added gradually 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 1.71 ml, 11.46 mmol, 1.2 eq) and the reaction subsequently stirred at 25-40° C. for 4-6 hrs. To the reaction mixture was then added a 6.0 M solution of ammonium acetate (7.96 ml, 47.7 mmol, 5 eq) followed by 1.0 M trimethylphosphine/tetrahydrofuran solution (1.5 eq). The reaction mixture was diluted with water and the aqueous phase extracted with three portions of ethyl acetate (40 ml each). The organic phase was then washed with three portions of diluted ammonium hydroxide (40 ml each). The combined aqueous washes are then extracted with two portions of ethyl acetate (40 ml each). The combined ethyl acetate phases are washed with two portions of water (20 ml each) then concentrated and azeotropically dried under reduced pressure to a final volume of 60 ml. The resulting solution was heated at 65-75° C. and 70 ml n-heptane was added slowly. The mixture was allowed to cool slowly and stirred at a final temperature of 15-20° C. The resulting solid (3.34 g, 78% corrected for input potency) was isolated by filtration followed by vacuum drying to afford crystalline product.

reactant | epothilone F | 9.55 mmol, 5.0 g | C[C@H]1CCC[C@@]2([C@@H](O2)C[C@H](OC(=O)C[C@@H](C(C(=O)[C@@H]([C@H]1O)C)(C)C)O)/C(=C/C3=CSC(=N3)CO)/C)C | C27H41NO7S
reactant | diphenylphosphoryl azide | 10.5 mmol, 2.27 ml, 1.1 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 11.46 mmol, 1.71 ml, 1.2 eq | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ammonium acetate | 47.7 mmol, 7.96 ml, 5 eq | C(C)(=O)[O-].[NH4+]
reactant | trimethylphosphine tetrahydrofuran | 1.0 M, 1.5 eq | CP(C)C.O1CCCC1
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-[2-[2-(Aminomethyl)-4-thiazolyl]-1-methylethenyl]-7,11-dihydroxy-8,8,10,12,16-pentamethyl-4,17-dioxabicyclo[14.1.0]heptadecane-5,9-dione | NCC=1SC=C(N1)C=C(C)C1CC2OC2(CCCC(C(C(C(C(C(CC(O1)=O)O)(C)C)=O)C)O)C)C | C27H42N2O6S
